US07807690B2
(11b) 4-Bromooxazole-5-carboxylic Acid Methyl Ester
To a mixture of 4-bromo-2-triisopropylsilanyloxazole-5-carboaldehyde (1.94 g) and methanol (40 mL) there were added sodium cyanide (1.43 g) and manganese dioxide (10.2 g) in that order, and the mixture was stirred overnight at room temperature. The mixture was filtered through Celite, the Celite was washed with ethyl acetate (200 mL), and the washed solution was combined with the filtrate. After sufficiently shaking the mixture, the organic layer was separated off and washed with a 1N aqueous sodium hydroxide solution (200 mL), and then dried over anhydrous magnesium sulfate. The mixture was filtered to obtain a filtrate, and the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane mixture) to obtain the target compound (0.435 g) as a colorless solid.

reactant | 4-bromo-2-triisopropylsilanyloxazole-5-carboaldehyde | 1.94 g | BrC=1N=C(OC1C=O)[Si](C(C)C)(C(C)C)C(C)C | C13H22BrNO2Si
reactant | sodium cyanide | 1.43 g | [C-]#N.[Na+]
reactant | methanol | 40 mL | CO | CH4O
catalyst | manganese dioxide | 10.2 g | [O-2].[O-2].[Mn+4]
product | 4-Bromooxazole-5-carboxylic Acid Methyl Ester | 0.435 g | COC(=O)C1=C(N=CO1)Br | C5H4BrNO3
